US06486190B1
A solution of 3,5-dimethyl-2,4-dinitroaniline (1.5 g, 7 mmol) in ethyl acetate (100 mL) is treated with hydrogen at atmospheric pressure for 2 hours. The mixture is filtered on Celite and the filtrate is rotary evaporated to afford 1,2-diamino-3,5-dimethyl4-nitrobenzene (1.25 g) as a red solid.

reactant | 3,5-dimethyl-2,4-dinitroaniline | 7 mmol, 1.5 g | CC=1C(=C(N)C=C(C1[N+](=O)[O-])C)[N+](=O)[O-] | C8H9N3O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1,2-diamino-3,5-dimethyl4-nitrobenzene | 1.25 g | NC1=C(C(=C(C(=C1)C)[N+](=O)[O-])C)N | C8H11N3O2
